US07514419B2
To a stirred solution of 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzyl alcohol (1.0 g, 3.4 mmol) in DME (10 mL) at 0° C. was added phosphorous tribromide (1.8 g, 0.5 mL, 6.8 mmol). The reaction mixture was stirred at 0° C. for 5 h, quenched with methanol (2 mL) and stirred for 30 min. The reaction mixture was poured into ice water and extracted with ether (100 mL). The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford crude 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzyl bromide as an oil (1.02 g, 82%): 1H NMR (300 MHz, CDCl3): δ 7.15 (s, 2 H), 6.81 (d, J=3.0 Hz, 1 H), 6.67 (d, J=9.0 Hz, 1 H), 6.34 (dd, J=3.0, 8.7 Hz, 1 H), 4.51 (s, 2 H), 3.80 (s, 3H), 3.40-3.25 (m, 1 H), 2.15 (s, 6 H), 1.20 (d, J=7.2 Hz, 6 H); TLC conditions: Uniplate silica gel, 250 microns; mobile phase=ethyl acetate-hexanes (2:4); Rf=0.7.

reactant | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzyl alcohol | 3.4 mmol, 1.0 g | CC=1C=C(CO)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C | C19H24O3
reactant | phosphorous tribromide | 6.8 mmol, 0.5 mL, 1.8 g | P(Br)(Br)Br | Br3P
solvent | DME | 10 mL | COCCOC | C4H10O2
product | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzyl bromide | 1.02 g, 82% | CC=1C=C(CBr)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C | C19H23BrO2
